US06251912B1
Isobutyl chloroformate (0.905 g, 6.6 mmol) and N-methylmorpholine (1.550 g, 15.3 mmol) were added to an ice cold solution of 1.900 g (10.71 mmol) of 4-(4-methyl-piperazin-1-yl)-but-2-ynoic acid in l50 mL of tetrahydrofuran under nitrogen. After stirring for 30 min, a solution of 1.500 g of N-(3-bromophenyl)-4,6-quinazolindiamine in 12 mL of pyridine was added and the mixture was stirred for 2 hr at 0° C. The reaction was then quenched with ice water, then it was poured into saturated sodium bicarbonate, and the product was extracted with ethyl acetate. Chromatography of the extract on silica gel, eluting with methanol/ethyl acetate (30:70), gave 0.590 g of 4-(4-methyl-piperazin-1-yl) -but-2-ynoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide: mass spectrum (m/e): M+H 479.

reactant | Isobutyl chloroformate | 6.6 mmol, 0.905 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 15.3 mmol, 1.550 g | CN1CCOCC1 | C5H11NO
reactant | 4-(4-methyl-piperazin-1-yl)-but-2-ynoic acid | 10.71 mmol, 1.900 g | CN1CCN(CC1)CC#CC(=O)O | C9H14N2O2
reactant | N-(3-bromophenyl)-4,6-quinazolindiamine | 1.500 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-methyl-piperazin-1-yl) -but-2-ynoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide | 0.590 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C#CCN1CCN(CC1)C)=O | C23H23BrN6O
